Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I attempted suicide yesterday." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Ms. ___ is a ___ year old ___
sophomore with history of depression who is brought in after ___
overdose of pills. Pt reports worsening depression in the 
setting
of multiple life stressors including her grandfather is dying,
her father is threatening to sell the family home and move back
to ___, lack of family support, and recent conflicts with
friends, and academic stress. She took 8 Advil tablets today
after ___ argument with a friend. She also reports a recent
similar event of taking ___ Midol pills but did not see medical
help at the time. She reports thinking about suicide "every 
day",
but denies other suicidal attempts. She also has a hx of
scratching or cutting herself with a key over the past few
months. 
 
On unit interview, She says she woke up and felt depressed. She
wanted to end her life this morning. She reports she is
overwhelmed by "everything", including her school work, personal
life and family. She says she had ___ arguement with a female
friend today, which is the precipitant event before she ingests 
8
pills of advil. She says she does not remember what was the
arguement about. She reports feeling depressed over ___ year,
acutely worsening in the past 2 weeks. She reports symptoms of
insomnia, poor appetite (with 12lbs weight loss), hopelessness,
low energy, trouble to concentrate. She reports feeling suicidal
everyday for past 6 months. She reports took multiple Midol 
pills
on last ___ but did not seek for help. Denies other hx of
suicidal attempt. She reports cutting her left forearm with a 
key
or razor for the past 3 months. She has multiple dark 
superficial
scars on her left arm. 

She reports hearing multiple voices that talk about her 
emotions.
She reports CAH of voice telling her to cut her arm. She reports
hearing voices multiple times a day. She reports always feeling
people are always talking bad things about her. She denies
thinking people trying to harm her in the hospital. She denies
VH. 

She reports hx of sexual trauma by her grandfather when she was 
___
years old. She reports nightmares, hypervigilance, flashback, 
and
avoidance about her childhood trauma. 

She used to have a therapist but stopped seeing her since
___. She has no current psychiatrist or therapist. She has a
PCP at ___, but forgot her name. She is not
currently on any antidepressants. She uses MJ about 15 joints or
balls everyday, last use was yesterday. 
 
ED COURSE:
Pt was in good behavioral control throughout ED stay. No
physical/chemical restraints required. 

 
Past Medical History:
"Psych hx:  No consistent treatment- she sees counselor at 
school
___ cell ___ (on call ___-
previously saw therapist at ___.  
No psych hospitalizations.
Overdosed last week (see above). No other suicide attempts.

PMH:  h/o PID, ovarian cyst
pregnant 2x - 1 abortion, 1 miscarriage
Meds: none
All:  NKDA

 
Social History:
___
Family History:
FAMILY HISTORY:  
mother with depression, ? bipolar, suicide attempts
sister has overdosed and cut herself.
 
Physical Exam:
VS:
T 98.4 PO; HR 96; BP 114/66; RR 16 98%RA 
 
PE:
General: NAD
HEENT: PERRL, MMM, OP clear.
Lungs: CTAB; no crackles or wheezes.
CV: RRR; no m/r/g; 2+ pedal pulses
Abdomen: Soft, mild tenderness upon RLQ
Extremities: No clubbing, cyanosis, or edema.
Skin: Multiple superficial dark scars on left forearm and left
hand
Neurological: CN ___ intact, no gross focal motor/sensory
deficits, gait wnl. Finger-nose-finger wnl.

MENTAL STATUS EXAM:
Mental Status:
*Appearance: Fairly groomed young AA female who appears stated
age, sitting up in chair, in no acute distress, wearing hospital
gown, Multiple superficial dark scars on left forearm and left
hand
 Behavior:Calm and cooperative with interview, fair eye
contact, answers questions appropriately, notable for PMR. Not
responding to internal stimuli
*Mood and Affect: "overwhelmed", dysphroic affect, constricted
range and intensity, mood congruent
*Thought process : mostly linear and goal directed; No loosening
of associations
*Thought Content : endorses SI and AH, denies HI or VH
*Judgment and Insight: limited/limited
 
COGNITIVE EXAM:
Orientation: alert to person, place, time, situation
Attention/concentration: able to recite MOYB
memory (purple, justice, Mr. ___: ___ registration, ___
recall, long-term: grossly intact
Calculations: quarters in $2.25 = 9
Language: grossly intact
Fund of knowledge: able to recall the last three ___ presidents
Proverbs: provided accurate interpretations  
Similarities/analogies: understood analogy of "apples to 
oranges"

 
Pertinent Results:
___ 06:47PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:47PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 06:47PM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-13
___ 06:47PM URINE  MUCOUS-RARE
___ 01:00PM URINE  UCG-NEGATIVE
___ 01:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:45PM   GLUCOSE-79 UREA N-14 CREAT-0.7 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-21* ANION GAP-16
___ 12:45PM   estGFR-Using this
___ 12:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45PM   WBC-7.0 RBC-4.08 HGB-12.4 HCT-38.7 MCV-95 
MCH-30.4 MCHC-32.0 RDW-14.0 RDWSD-48.9*
___ 12:45PM   NEUTS-66.9 ___ MONOS-5.3 EOS-0.4* 
BASOS-0.6 IM ___ AbsNeut-4.66 AbsLymp-1.84 AbsMono-0.37 
AbsEos-0.03* AbsBaso-0.04
___ 12:45PM   PLT COUNT-___. Psychiatric:
#)Depression, unipolar vs bipolar
Ms. ___ is a ___ year old ___ sophomore with 
history of depression who is brought in after ___ overdose of 
pills. On interview, the patient reported worsening depression 
in the setting of multiple life stressors including academic 
failure and a tumultuous intimate relationship. She in the span 
of one week twice attempted suicide, and only in her second 
attempt sought help. On interview she endorsed neurovegetaive 
symptoms and persistent suicidality for minimum three months, 
but claims that she has never been happy; she has likewise 
engaged in self-injurious behavior in the form of cutting.  She 
has a history of physical, sexual, and verbal abuse as well as 
neglect beginning at the age of two when her mother abandoned 
her and her older sister at her grandmother's house.  She did 
report frequent nightmares and episodes of dissociation 
concerning for PTSD.  She believes that the self-reliance she 
developed as a result of her past traumas and distrust in others 
prohibited her from seeking help when she first began to 
struggle with depression.  Family history is significant for 
reported bipolar disorder in her mother and multiple suicide 
attempts by her mother and older sister.  ___ suggestive of 
mania were positive on review of systems- 3 day periods with 
increased energy and no need for sleep- making her presentation 
altogether concerning for unipolar vs bipolar depression.  
Although her daily marijuana consumption likely exacerbates her 
depression and anxiety her symptoms preceded the escalation in 
her use.  

After a discussion of the risks and benefits of medication the 
patient agreed to fluoxetine 10 mg and lamictal 50 mg PO daily 
with the plan to titrate as ___ outpatient.  She was noted to be 
anxious in the hospital and utilized Ativan 0.5 mg PO q6h PRN 
with good effect.  She declined to participate in groups despite 
multiple invitations and complained that she could not sleep or 
eat in the hospital due to her anxiety and distaste for hospital 
food.  She was largely cooperative and readily engaged but did 
become agitated on discussion of discharge and disposition; she 
strongly believed that she had signed a 3 day notice after 
having signed a CV but none was noted in the record and none 
present in the chart.  Despite her occasional outbursts she 
never lost behavioral control and consistently maintained 
safety.  She was able to identify a number of activities and 
coping skills which she can use to maintain safety moving 
forward, such as exercising, cleaning, spending time with 
friends, and attending church, but admittedly, few of these 
activities seemed available to her in the hospital.  She was 
discharged ___ following the arrangement of close aftercare 
including follow-up with both a psychiatrist and therapist.

#)PTSD
As above.  Agreed to attend therapy as ___ outpatient.  Declined 
additional medications such as prazosin at this time.

#)Marijuana use disorder
Patient was counseled on the importance of marijuana cessation.  
She agreed to follow up with her psychiatrist and PCP in order 
to successfully abstain.  Of note, it was felt that some 
component of her anxiety and irritability while in the hospital 
was ___ marijuana withdrawal given her heavy daily use.

2. Medical: 
No active medical problems.  Routine labs including BMP, CBC, 
lipids, A1c, TSH, B12 and folate wnl.

3. SW/Disposition: 
Patient declined to have family involved, a wish which was 
honored given the lack of a relationship with her mother or 
extended family and the history verbal and physical abuse by her 
father.  ___ were made with ___ outpatient psychiatrist 
and therapist prior to discharge as well as a re-entry 
appointment with ___.
  
4. Legal:
___
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY 
Should increase to 20 mg ___.  
2.  LamoTRIgine 50 mg PO DAILY 
Should increase to 100 mg on ___   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood disorder, depressive episode (unipolar vs bipolar)
PTSD
Marijuana use disorder
 
Discharge Condition:
VS: T 98.4 PO; BP 120 / 80; HR 109; RR 18; SpO2 98% 

MSE on discharge:
Appearance/Behavior- Casually groomed young female with 
dreadlocks; calm, cooperative, soft-spoken and pleasant
Speech- Fluent ___, normal rate, volume, and prosody
Mood/Affect- 'I'm alright' / Full, euthymic, congruent
Thought process- Linear, future and goal oriented
Thought content- Denies SI/HI/thoughts of self-harm/___
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___